US05326760
(a) 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-methanesulfonylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester
100 mg of 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester, prepared as in Example 73 where the protecting group Rp, 1,1-dimethylethyl, was not removed following the condensation reaction seen in Scheme 2, was added to 5 mL dichloromethane under nitrogen. The mixture was cooled to 0° C. and 0.1 mL of pyridine was added, followed by 0.014 mL methanesulfonyl chloride. The mixture was allowed to warm to room temperature and was stirred overnight. The solvent was removed by Evaporation and the residue was purified by reverse phase H.P.L.C. The solvent was removed by evaporation to give the title compound; 45 mg

reactant | 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | 100 mg | CC(C)(C)OC(C(CCN1C(C2=CC=C(C=C2C1=O)N)=O)NC(CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C29H38N4O5
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | methanesulfonyl chloride | 0.014 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
product | 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-methanesulfonylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C2=CC=C(C=C2C1=O)NS(=O)(=O)C)=O)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C30H40N4O7S
